Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
Levaquin / erythromycin base
 
Attending: ___.
 
Chief Complaint:
R hand saw injury
 
Major Surgical or Invasive Procedure:
right thumb intrinsic muscle repair, open reduction internal 
fixation thumb metacarpal, repair of extensor pollicis longus 
tendon, extensor pollicis brevis tendon, repair of superficial 
radial nerve branch, adjacent tissue transfer closure
 
History of Present Illness:
___ is a ___ year old male with a hx of afib (on
eliquis), HTN, HLD, who presents after sustaining a work injury
to his hand. He was using a circular saw and while feeding wood
to it, the saw hit his right thumb. He immediately called EMS 
and
was brought to ___. Hand surgery is consulted for management.
 
Past Medical History:
PMH: 
afib
htn
hld                                                
hx of rhabdo

PSH:
cholecystectomy
cataracts
 
Social History:
___
Family History:
no pertinent family history
 
Physical Exam:
PREOP:
Gen: NAD, A&Ox3, lying on stretcher.
HEENT: Normocephalic. 
CV: RRR
R: Breathing comfortably on room air. No wheezing.
Ext: WWP. Palpable radial, DP bilaterally. No ___ edema. 2 second
capillary refill in all digit tips. 

Right Hand: Deep laceration through thenar eminence. Vascular:
Palpable radial and ulnar pulses. Doppler signal present to
palmar arch. Signal to distal digits present. Capillary refill 
is
2 seconds.
Motor: No extension or flexion of thumb. 

POSTOP:
- in splint, c/d/i
- fingertips WWP
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the hand surgery team. The patient was found to 
have right hand table saw injury and was admitted to the hand 
surgery service. The patient was taken to the operating room on 
___ for right thumb intrinsic muscle repair, open 
reduction internal fixation thumb metacarpal, repair of extensor 
pollicis longus tendon, extensor pollicis brevis tendon, repair 
of superficial radial nerve branch, adjacent tissue transfer 
closure, which the patient tolerated well. For full details of 
the procedure please see the separately dictated operative 
report. The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the floor. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications in the PACU. The patient was given 
___ antibiotics and anticoagulation per routine. The 
patient's home medications were continued throughout this 
hospitalization.  Per patient's preference, patient opted to be 
discharged home immediately from the PACU after surgery.  The 
___ hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
nonweightbearing in the right upper extremity. The patient will 
follow up with Dr. ___ routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.
 
Medications on Admission:
lisinopril
eliquis
metformin
metoprolol
rosouvastatin
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Cephalexin 500 mg PO Q6H  
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE--Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN Pain 
- Severe  
5.  Senna 17.2 mg PO HS  

Continue home meds:
lisinopril
eliquis
metformin
metoprolol
rosouvastatin
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right hand saw injury
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
-Nonweightbearing right upper extremity in splint
-1 week oral Keflex antibiotics
-Follow-up in ___ in 2 weeks.
 
Followup Instructions:
___